US07935722B2
Cyclopropanecarboxylic acid[6-cyano-9-(6-fluoro-pyridin-2-ylmethyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide
Prepare the title compound from cyclopropanecarboxylic acid(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)amide (Preparation 69) (10.0 g, 35.8 mmol) and 2-bromomethyl-6-fluoro-pyridine (Preparation 44) (7.49 g, 39.4 mmol) by essentially following procedures as described in Preparation 45 to obtain 4.30 g (31%) of a salmon colored solid. Resolve the enantiomers using chiral chromatography essentially as described for Example 194, but using 0.2% DMEA/EtOH eluent. (R)-Isomer is first to elute. Slurry the solid in EtOAc and filter to give the title compound. m.p.=243-245° C.; MS (ES): m/z 389 (M+1).

reactant | cyclopropanecarboxylic acid(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)amide | 35.8 mmol, 10.0 g | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(=O)C1CC1 | C17H17N3O
reactant | 2-bromomethyl-6-fluoro-pyridine | 39.4 mmol, 7.49 g | BrCC1=NC(=CC=C1)F | C6H5BrFN
product | Cyclopropanecarboxylic acid[6-cyano-9-(6-fluoro-pyridin-2-ylmethyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=NC(=CC=C1)F)NC(=O)C1CC1 | C23H21FN4O
